US07732466B2
(a) tert.-butyl 2-[(5-bromo-thiophen-2-yl)-carbonylamino]-isobutyrate
2.63 g (12.3 mmol) 5-bromo-thiophene-2-carboxylic acid are refluxed in 15 ml dichloromethane together with 7.0 ml of thionyl chloride for 2 h with stirring. The mixture is then evaporated down i. vac. and the residue is twice taken up in toluene and evaporated down completely i. vac. The residue is added dropwise to 10 ml dichloromethane with stirring at ambient temperature in a mixture of 2.41 g (12.3 mmol) tert.-butyl 2-amino-isobutyrate hydrochloride in 20 ml dichloromethane with 5.14 ml (36.9 mmol) TEA and stirred for 16 h. The mixture is poured into water and extracted with dichloromethane, the combined organic phases are dried over magnesium sulphate and evaporated down i. vac.

reactant | 5-bromo-thiophene-2-carboxylic acid | 12.3 mmol, 2.63 g | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | thionyl chloride | 7.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tert.-butyl 2-amino-isobutyrate hydrochloride | 12.3 mmol, 2.41 g | Cl.NC(C(=O)OC(C)(C)C)(C)C
reactant | water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | tert.-butyl 2-[(5-bromo-thiophen-2-yl)-carbonylamino]-isobutyrate | BrC1=CC=C(S1)C(=O)NC(C(=O)OC(C)(C)C)(C)C | C13H18BrNO3S
